US09126993B2
1-azabicyclo[2.2.2]oct-3-yl{2-[3-(2-methylpropyl)phenyl]propan-2-yl}carbamate
Using general procedure E, 1-azabicyclo[2.2.2]oct-3-yl[2-(3-bromophenyl)propan-2-yl]carbamate (75 mg, 0.20 mmol), 2-methylpropyl boronic acid (28.1 mg, 0.276 mmol) and palladium (II) acetate gave the title compound as a white solid (50 mg, 71%). 1H NMR (400 MHz, CDCl3) δ 7.21 (d, J=4.9 Hz, 2H), 7.16 (s, 1H), 7.00 (s, 1H), 5.17 (s, 1H), 4.60 (s, 1H), 3.35-2.10 (m, 6H), 2.45 (d, J=7.1 Hz, 2H), 1.82 (dt, J=6.8, 13.5 Hz, 1H), 2.03-0.94 (m, 5H), 1.65 (s, 6H), 0.89 (d, J=6.6 Hz, 6H) ppm. 13C NMR (100 MHz, CDCl3) δ 172.6, 172.1, 170.8, 170.2, 160.1, 160.0, 157.8, 157.7, 140.4, 139.8, 130.5, 130.4, 130.0, 129.8, 129.5, 129.3, 127.9, 127.7, 120.8, 120.7, 120.3, 113.9, 113.6, 113.2, 113.0, 110.5, 110.4, 66.6, 66.5, 56.8, 56.3, 55.4, 55.4, 54.0, 53.7, 51.1, 46.6, 43.8, 43.7, 42.0, 38.4, 37.8, 37.7, 33.8, 33.2, 27.4, 27.0, 25.7, 25.5, 20.9, 20.9 ppm. Purity: 90% UPLCMS (210 nm); retention time 0.89 min; (M+1) 345.

reactant | 1-azabicyclo[2.2.2]oct-3-yl[2-(3-bromophenyl)propan-2-yl]carbamate | 0.20 mmol, 75 mg | N12CC(C(CC1)CC2)OC(NC(C)(C)C2=CC(=CC=C2)Br)=O | C17H23BrN2O2
reactant | 2-methylpropyl boronic acid | 0.276 mmol, 28.1 mg | CC(CB(O)O)C | C4H11BO2
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-azabicyclo[2.2.2]oct-3-yl{2-[3-(2-methylpropyl)phenyl]propan-2-yl}carbamate | 50 mg, 71% | N12CC(C(CC1)CC2)OC(NC(C)(C)C2=CC(=CC=C2)CC(C)C)=O | C21H32N2O2
